US07498337B2
2-bromo-5-(2-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde
5-(2-Fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde (330 mg) was dissolved in N,N-dimethylformamide (30 mL), N-bromosuccinimide (356 mg) was added and the mixture was stirred at 80° C. for 2 hr. The reaction mixture was allowed to cool, a saturated aqueous sodium hydrogencarbonate solution was added, and the mixture was extracted with ethyl acetate.

reactant | 5-(2-Fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | 330 mg | FC1=C(C=CC=C1)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)C=O | C16H11FN2O3S
reactant | N-bromosuccinimide | 356 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 2-bromo-5-(2-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | BrC=1N(C(=CC1C=O)C1=C(C=CC=C1)F)S(=O)(=O)C=1C=NC=CC1 | C16H10BrFN2O3S
